* C:\Users\Deva\OneDrive\Documents\LTspice\diglib\inv1x\inv1x_tb_tran.asc
* Generated by LTspice 24.1.10 for Windows.
V1 a 0 PULSE(0 {vdd} {tp/2} 100p 100p {tp/2} {tp})
V2 vdd 0 {vdd}
C1 y 0 200f
X§X1 a vdd 0 y inv1x

* block symbol definitions
.subckt inv1x A VDD VSS Y
Mp1 Y A VDD N001 CMOSP l={lp} w={wp} ad={lp*wp} as={lp*wp} pd={2*lp+wp} ps={2*lp+wp}
Mn2 Y A VSS N002 CMOSN l={ln} w={wn} ad={ln*wn} as={ln*wn} pd={2*ln+wn} ps={2*ln+wn}
.inc C:\Users\Deva\OneDrive\Documents\LTspice\models\bsim3_180nm.cir
.param ln=180nm lp=ln br=2.23612 wn=2*ln wp=wn*br
.ends inv1x

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Deva\AppData\Local\LTspice\lib\cmp\standard.mos
.tran {tp*2}
.param vdd=3.3 tp=20n
.meas TRAN tr TRIG V(y) VAL={0.1*vdd} RISE=1 TARG V(y) VAL={0.9*vdd} RISE=1
.meas TRAN tf TRIG V(y) VAL={0.9*vdd} FALL=1 TARG V(y) VAL={0.1*vdd} FALL=1
.meas TRAN tdlh TRIG V(a) VAL={0.5*vdd} FALL=1 TARG V(y) VAL={0.5*vdd} RISE=1
.meas TRAN tdhl TRIG V(a) VAL={0.5*vdd} RISE=1 TARG V(y) VAL={0.5*vdd} FALL=1
.meas TRAN td PARAM (tdlh+tdhl)/2
.meas TRAN Iavg_vdd AVG I(V2) FROM 0 TO {tp*2}
.meas TRAN Pavg PARAM -Iavg_vdd*vdd
.meas TRAN Ipeak MAX I(V2)
.meas TRAN P PARAM Ipeak*vdd
.backanno
.end
